### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Basic): an ideal is prime if it is maximally disjoint from a submonoid

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 1]
```diff
@@ -641,6 +641,36 @@ theorem span_pow_eq_top (s : Set α) (hs : span s = ⊤) (n : ℕ) :
   exact ⟨f x ^ (n + 1), mul_comm _ _⟩
 #align ideal.span_pow_eq_top Ideal.span_pow_eq_top
 
+lemma isPrime_of_maximally_disjoint (I : Ideal α)
+    (S : Submonoid α) (disjoint : (I : Set α) ⊓ S = ∅)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Basic.lean:645]: What do you think of
```suggestion
    (S : Submonoid α) (disjoint : Disjoint (I : Set α) S)
```
and similarly for `maximally_disjoint`?

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 2]
```diff
@@ -641,6 +641,36 @@ theorem span_pow_eq_top (s : Set α) (hs : span s = ⊤) (n : ℕ) :
...
+    (maximally_disjoint : ∀ (J : Ideal α), I < J → (J : Set α) ⊓ S ≠ ∅) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Basic.lean:646]: @Yael, do we have some predicate that combines these two, as the more general
```lean
    (p : P I)
    (maximally_p : ∀ (J : Ideal α), P J → I < J → False) :
```

Comment (YaelDillies) [reply Mathlib/RingTheory/Ideal/Basic.lean:646]: There's `IsMaxOn`, but weirdly it uses `Filter` 🤔

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Basic.lean:645]: I think `Disjoint` isn't very nice definitionally (requires [disjoint_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Disjoint.html#disjoint_iff) to convert to the current form), and `¬ Disjoint` would be a bit awkward (`((I : Set α) ∩ S).Nonempty` is probably definitionally most convenient), so I'm happy with the current statement. Note that `∩` should be used instead of `⊓` since these are sets.

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 3]
```diff
@@ -641,6 +641,36 @@ theorem span_pow_eq_top (s : Set α) (hs : span s = ⊤) (n : ℕ) :
...
+      Ideal.mem_span_singleton] at hx hy
+    obtain ⟨s₁, ⟨i₁, hi₁, ⟨_, ⟨r₁, rfl⟩, hr₁'⟩⟩, hs₁⟩ := hx
+    obtain ⟨s₂, ⟨i₂, hi₂, ⟨_, ⟨r₂, rfl⟩, hr₂'⟩⟩, hs₂⟩ := hy
+    rw [eq_empty_iff_forall_not_mem] at disjoint
+    refine disjoint (s₁ * s₂) ⟨hr₁' ▸ hr₂' ▸ ?_, S.mul_mem hs₁ hs₂⟩
+    ring_nf
+    refine I.add_mem (I.add_mem (I.add_mem (I.mul_mem_left _ hi₂) (I.mul_mem_right _ <|
+      I.mul_mem_right _ hi₁)) <| I.mul_mem_left _ hi₂) <| ?_
+    rw [show x * r₁ * y * r₂ = (x * y) * (r₁ * r₂) by ring]
+    exact I.mul_mem_right _ hxy
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/Basic.lean:672]: a bit of golf
```
lemma isPrime_of_maximally_disjoint (I : Ideal α)
    (S : Submonoid α) (disjoint : (I : Set α) ∩ S = ∅)
    (maximally_disjoint : ∀ (J : Ideal α), I < J → (J : Set α) ∩ S ≠ ∅) :
    I.IsPrime where
  ne_top' := by rintro rfl; exact disjoint.subset ⟨trivial, S.one_mem⟩
  mem_or_mem' {x y} hxy := by
    by_contra' rid
    have hx := maximally_disjoint (I ⊔ span {x}) (Submodule.lt_sup_iff_not_mem.mpr rid.1)
    have hy := maximally_disjoint (I ⊔ span {y}) (Submodule.lt_sup_iff_not_mem.mpr rid.2)
    simp_rw [← nonempty_iff_ne_empty, nonempty_def, mem_inter_iff,
      SetLike.mem_coe, Submodule.mem_sup, mem_span_singleton] at hx hy
    obtain ⟨s₁, ⟨i₁, hi₁, ⟨_, ⟨r₁, rfl⟩, hr₁⟩⟩, hs₁⟩ := hx
    obtain ⟨s₂, ⟨i₂, hi₂, ⟨_, ⟨r₂, rfl⟩, hr₂⟩⟩, hs₂⟩ := hy
    refine eq_empty_iff_forall_not_mem.mp disjoint (s₁ * s₂) ⟨hr₁ ▸ hr₂ ▸ ?_, S.mul_mem hs₁ hs₂⟩
    ring_nf
    rw [show x * r₁ * y * r₂ = (x * y) * (r₁ * r₂) by ring]
    exact I.add_mem (I.add_mem (I.add_mem (I.mul_mem_left _ hi₂) <| I.mul_mem_right _ <|
      I.mul_mem_right _ hi₁) <| I.mul_mem_left _ hi₂) (I.mul_mem_right _ hxy)
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/RingTheory/Ideal/Basic.lean:645]: The point of `Disjoint` is precisely to normalise alll those context-specific uses to a single canonical spelling, though.
You will remark that `(I : Set α) ⊓ S = ∅` is actually very bad definitionally. You can't apply it nor have dot notation on it!

I am strongly in favour of Eric's suggestion.

Comment (Vierkantor) [reply Mathlib/RingTheory/Ideal/Basic.lean:645]: I agree, we should consistently use `Disjoint` here. See also this analogous Zulip discussion on `IsCoprime`: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/coprime.20ideal/near/395055642.

File: Mathlib/RingTheory/Ideal/Basic.lean [hunk 4]
```diff
@@ -641,6 +641,36 @@ theorem span_pow_eq_top (s : Set α) (hs : span s = ⊤) (n : ℕ) :
...
 #align ideal.span_pow_eq_top Ideal.span_pow_eq_top
 
+lemma isPrime_of_maximally_disjoint (I : Ideal α)
+    (S : Submonoid α) (disjoint : (I : Set α) ⊓ S = ∅)
+    (maximally_disjoint : ∀ (J : Ideal α), I < J → (J : Set α) ⊓ S ≠ ∅) :
+    I.IsPrime where
+  ne_top' := by
+    rintro rfl
+    simp only [Submodule.top_coe, ge_iff_le, le_eq_subset, subset_univ, inf_of_le_right] at disjoint
+    exact (mem_empty_iff_false _).mp <| disjoint ▸ SetLike.mem_coe.mpr S.one_mem
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Ideal/Basic.lean:651]: Here's an alternative proof if you use `Disjoint` above:
```suggestion
    have : 1 ∈ (S : Set α) := S.one_mem
    aesop
```

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 2 above)
Comment (Vierkantor) [reply Mathlib/RingTheory/Ideal/Basic.lean:646]: I tried using `IsMaxOn` here but the API is very much lacking. For example, you cannot easily get Eric's `maximally_p` out of it. So I think the current spelling of `maximally_disjoint` is okay, if we switch to `Disjoint`:
```suggestion
    (S : Submonoid α) (disjoint : Disjoint (I : Set α) S)
    (maximally_disjoint : ∀ (J : Ideal α), I < J → ¬ Disjoint (J : Set α) S) :
```

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 3 above)
Comment (Vierkantor) [inline Mathlib/RingTheory/Ideal/Basic.lean:672]: Further golfing using `Disjoint`:
```suggestion
    by_contra' rid
    have hx := maximally_disjoint (I ⊔ span {x}) (Submodule.lt_sup_iff_not_mem.mpr rid.1)
    have hy := maximally_disjoint (I ⊔ span {y}) (Submodule.lt_sup_iff_not_mem.mpr rid.2)
    simp only [Set.not_disjoint_iff, mem_inter_iff, SetLike.mem_coe, Submodule.mem_sup,
      mem_span_singleton] at hx hy
    obtain ⟨s₁, ⟨i₁, hi₁, ⟨_, ⟨r₁, rfl⟩, hr₁⟩⟩, hs₁⟩ := hx
    obtain ⟨s₂, ⟨i₂, hi₂, ⟨_, ⟨r₂, rfl⟩, hr₂⟩⟩, hs₂⟩ := hy
    refine disjoint.ne_of_mem
      (I.add_mem (I.mul_mem_left (i₁ + x * r₁) hi₂) <| I.add_mem (I.mul_mem_right (y * r₂) hi₁) <|
        I.mul_mem_right (r₁ * r₂) hxy)
      (S.mul_mem hs₁ hs₂) ?_
    rw [← hr₁, ← hr₂]
    ring
```

**Review by Vierkantor — APPROVED** [review]
`Disjoint` really isn't bad to work with IMO, so we should standardise on that.

File: Mathlib/RingTheory/Ideal/Basic.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Basic.lean:672]: Thanks and sorry for forgetting about the PR. I can now agree that using `Disjoint` API is good practice, having worked with it a bit in other contexts.

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+
